US08871753B2
Step B: 2-Iodo-4-nitrobenzyl methanesulfonate
To a solution of (2-iodo-4-nitrophenyl)methanol (6.01 g, 21.5 mmol) in methylene chloride (50 mL) was added N,N-diisopropylethylamine (7.50 mL, 43.1 mmol) and methanesulfonyl chloride (1.83 mL, 23.7 mmol) at 0° C. The reaction solution was stirred at same temperature for 2 hours. The reaction was quenched with water, and aqueous layer was extracted with DCM once. The combined organic solutions were washed with brine, dried over Na2SO4, filtered and concentrated The crude product was purified by flash column chromatography to give the desired product (6.15 g, 80%). LCMS calculated for C8H91NO5S (M+H)+: m/z=358.0.

reactant | (2-iodo-4-nitrophenyl)methanol | 21.5 mmol, 6.01 g | IC1=C(C=CC(=C1)[N+](=O)[O-])CO | C7H6INO3
reactant | N,N-diisopropylethylamine | 43.1 mmol, 7.50 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methanesulfonyl chloride | 23.7 mmol, 1.83 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | 2-Iodo-4-nitrobenzyl methanesulfonate | 6.15 g, 80% | CS(=O)(=O)OCC1=C(C=C(C=C1)[N+](=O)[O-])I | C8H8INO5S
